** sch_path: /foss/designs/modulo1/lab01/xschem/tb_dc.sch
**.subckt tb_dc
x1 Vdd IN OUT GND inverter
Vin IN GND 1.8
V2 Vdd GND 1.8
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt



.save all

.control
  dc Vin 0 1.8 0.005
  write tb_dc.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /foss/designs/modulo1/lab01/xschem/inverter.sym
** sch_path: /foss/designs/modulo1/lab01/xschem/inverter.sch
.subckt inverter VDD IN OUT GND
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin GND
XM1 OUT IN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
XM2 OUT IN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
.ends

.GLOBAL GND
.end
